US09284308B2
1-Acetyl-N-methoxy-N-methylpiperidine-4-carboxamide
1,1′-Carbonyldiimidazole (6.43 g, 39.64 mmol) was added slowly to a mixture of 1-acetylpiperidine-4-carboxylic acid (5 g, 29.21 mmol) in dry THF (40 mL). The mixture was stirred at room temperature for one hour. In a separate flask, triethylamine was added to a mixture of N,O-dimethylhydroxylamine hydrochloride (3.92 g, 40.18 mmol) in acetonitrile (32 mL). The two mixtures were combined and stirred at room temperature for 12 hours. The solvents were removed under reduced pressure and the residue dissolved in DCM. The organic mixture was washed with water, HCl (0.1 N aqueous solution) and finally a concentrated aqueous Na2CO3 solution. The organic layer was dried over MgSO4, filtered and evaporated to give a crude oil. The oil was purified by chromatography to provide the title compound visible by HPLC at 214 wavelength.

reactant | 1,1′-Carbonyldiimidazole | 39.64 mmol, 6.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-acetylpiperidine-4-carboxylic acid | 29.21 mmol, 5 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 40.18 mmol, 3.92 g | Cl.CNOC
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
product | 1-Acetyl-N-methoxy-N-methylpiperidine-4-carboxamide | C(C)(=O)N1CCC(CC1)C(=O)N(C)OC | C10H18N2O3
